US07579351B2
9-(1-Isopropyl-piperidin-4-yloxy)-2,3,4,5-tetrahydro-[1,4]diazepino[1,2-a]indol-1-one
The title compound was synthesized in analogy to example 1, from 9-hydroxy-2,3,4,5-tetrahydro-[1,4]diazepino[1,2-a]indol-1-one, 1-isopropyl-piperidin-4-ol (commercially available), triphenylphosphine and di-tert-butyl-azodicarboxylate, to give the desired product as a light yellow oil (13%).

reactant | 9-hydroxy-2,3,4,5-tetrahydro-[1,4]diazepino[1,2-a]indol-1-one | OC1=CC=2C=C3N(C2C=C1)CCCNC3=O | C12H12N2O2
reactant | 1-isopropyl-piperidin-4-ol | C(C)(C)N1CCC(CC1)O | C8H17NO
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl-azodicarboxylate | C(C)(C)(C)OC(=O)N=NC(=O)OC(C)(C)C | C10H18N2O4
product | 9-(1-Isopropyl-piperidin-4-yloxy)-2,3,4,5-tetrahydro-[1,4]diazepino[1,2-a]indol-1-one | 13% | C(C)(C)N1CCC(CC1)OC1=CC=2C=C3N(C2C=C1)CCCNC3=O | C20H27N3O2
